US08026257B2
7-(((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)methyl)-2-methyl-5-(trifluoromethyl)-2H-indazole.
tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate (26 mg, 0.050 mmol) was dissolved in trifluoroacetic acid (25% in dichloromethane, 2 mL) and stirred at room temperature for 15 min. The reaction was concentrated, and loaded onto a strong cation exchange cartridge in methanol. The cartridge was flushed with several volumes of methanol which were discarded. The product was eluted with 2 M ammonia in methanol and concentrated to give 20.6 mg (98%) as a colorless film. 1H-NMR (CDCl3, 500 MHz) δ 7.98 (s, 1H), 7.86 (s, 1H), 7.35 (m, 2H), 7.23 (s, 1H), 7.00 (m, 2H), 4.82 (s, 2H), 4.21 (s, 3H), 3.54 (s, 2H), 2.90 (m, 2H), 2.74 (m, 2H), 2.14 (m, 2H), 1.60-2.05 (m, 3H); 13C-NMR (CDCl3, 126 MHz) δ 162.3, 160.3, 147.6, 140.2, 129.2, 128.9, 128.8, 125.6, 124.9 (q, J=272 Hz), 124.2 (q, J=32 Hz), 120.8, 118.8 (q, J=2.9 Hz), 117.6 (q, J=5.8 Hz), 115.0, 114.9, 79.9, 68.7, 42.7, 41.6, 40.7, 33.9. Mass spec.: 422.12 (MH)+. Accurate mass spec.: m/z 422.1836 [MH]+, Δ=4.6 ppm.

reactant | tert-Butyl 4-(4-fluorophenyl)-4-(((2-methyl-5-(trifluoromethyl)-2H-indazol-7-yl)methoxy)methyl)piperidine-1-carboxylate | 0.050 mmol, 26 mg | FC1=CC=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)COCC1=CC(=CC2=CN(N=C12)C)C(F)(F)F | C27H31F4N3O3
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 7-(((4-(4-Fluorophenyl)piperidin-4-yl)methoxy)methyl)-2-methyl-5-(trifluoromethyl)-2H-indazole | FC1=CC=C(C=C1)C1(CCNCC1)COCC1=CC(=CC2=CN(N=C12)C)C(F)(F)F | C22H23F4N3O
